Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fevers, elevated bilirubin
 
Major Surgical or Invasive Procedure:
ERCP ___
 
History of Present Illness:
___ with stage IV cholangiocarcinoma, s/p biliary stenting, 
C8D29 of gemcitabine/cisplatin (last dose ___ who presents 
with fever, chills, and malaise. He was found to have an 
elevated bilirubin of 1.8 on admission, now 2.5. U/S showed 
unchanged mild gallbladder wall thickening and gallbladder 
sludge without evidence for acute cholecystitis. ERCP was 
consulted performed ERCP on ___, which showed obstruction of 
biliary stents. A double pigtail plastic biliary stent was 
placed successfully in the main duct and left main hepatic duct. 
The right sided metal stent was then cannulated with the 
balloon. Multiple balloon sweeps were performed resulting in 
extraction of copious amounts of pus, sludge, stone material and 
tumour tissue. He was switched to PO ciprofloxacin (from IV 
cefepime, flagyl) after his procedure. 
 
Past Medical History:
ONCOLOGIC HISTORY:
DIAGNOSIS: T3N2M0 (stage ___ unresectable extrahepatic
cholangiocarcinoma, seen C5D1 gemcitabine/cisplatin

ONCOLOGIC HISTORY:  
- ___: weight loss of about 20 lbs over 3 weeks. One day of
gastric distention, nausea and this resolved.  
- ___: started to develop intermittent nausea as well as a
change in his bowel movements, which were previously normal once
a day, becoming several times a day with soft stools.  He states
that over the ___, he was more fatigued than usual with
burping.  He presented to his primary care physician at which
point he had laboratory testing, and was referred for an
ultrasound of his liver followed by a CT of his abdomen.  He was
seen by gastroenterologist, Dr. ___, at ___ and was referred to ___ for ERCP.  
- ___: Admitted for ERCP. During that period, his
initial bilirubin was 1.6, his alkaline phosphatase 395, his AST
was 181, ALT 251 and his CA ___ was 172.  His CEA was within
normal limits.  During this admission, he had any ERCP, which
showed ductal dilation bilaterally, left more than right and a
plastic stent was placed in the left hepatic duct.  He was
discharged on ___ and during his admission, his maximum
bilirubin was 6.4. 
- ___: repeat ERCP which continue to show bilateral right
and left hepatic lobe ductal dilation with marked migration of
the stent into the small intestine.  He had bilateral plastic
stents placed at that time point.  During his initial workup, he
has also undergone a CT of his chest, which showed one small 
lung nodule of 3 mm in size and a MRCP of the abdomen, which 
indicated this ductal dilation and a mass at the bifurcation of 
the right anterior and left intrahepatic ducts worrisome for 
type IV ___ cholangiocarcinoma.  Cytology was 
suspicious for carcinoma. 
- ___: repeat ERCP with exchange of plastic for metal stent. 

- ___: start of cisplatin/gemcitabine cycle 1
- ___ seen in ED for BPV 
- ___ cycle ___: hospitalized for right biliary obstruction. ERCP to
clear stent of sludge/stones with blood ctx + pan sensitivite
enteroccocus
- ___: cycle 3, last dose ___ and ___: hospitalized for GNR bacteremia and
C. diff and then again for delerium, discharged home
- ___: C4 D1 Gem/Cis
- ___ completed CK radiation and resume C5D1 Gem/Cis
.
PMH:
GERD
Rosacea
BPH
Migraines controlled on Atenolol
Arthritis of the knees and shoulder on the right
 
Social History:
___
Family History:
His grandfather had a cancer of the bone.  He has no other 
family history of malignancy.

 
Physical Exam:
PHYSICAL EXAM:
VITALS: 97.7   130/70     65    16     98%RA
GEN: NAD, appears well
HEENT: PERRL, EOMI, dry MM, oropharynx clear, no cervical ___
CV: RRR without m/r/g, nl S1 S2.
LUNGS: CTAB, no wheezes, rales or rhonchi.
ABD: obese abdomen, normal bowel sounds, non-tender, not 
distended, no HSM
EXTR: Warm, well perfused. No edema. 2+ pulses. 
 
Pertinent Results:
==================================
              Labs
==================================
___ 01:50PM BLOOD WBC-5.3# RBC-3.74* Hgb-11.0* Hct-35.1* 
MCV-94 MCH-29.4 MCHC-31.3 RDW-15.7* Plt Ct-93*
___ 07:05AM BLOOD WBC-4.5 RBC-3.58* Hgb-10.9* Hct-33.9* 
MCV-95 MCH-30.3 MCHC-32.0 RDW-16.0* Plt ___
___ 07:25AM BLOOD ___ PTT-33.5 ___
___ 01:50PM BLOOD Glucose-142* UreaN-9 Creat-0.9 Na-138 
K-3.8 Cl-99 HCO3-25 AnGap-18
___ 07:05AM BLOOD Glucose-114* UreaN-7 Creat-0.8 Na-138 
K-3.9 Cl-101 HCO3-28 AnGap-13
___ 01:50PM BLOOD ALT-171* AST-193* AlkPhos-605* 
TotBili-1.8*
___ 07:05AM BLOOD ALT-61* AST-44* AlkPhos-448* TotBili-1.4
___ 01:50PM BLOOD Albumin-4.1 Calcium-9.1 Phos-2.8 Mg-1.7
___ 07:05AM BLOOD Calcium-8.9 Phos-2.3* Mg-2.1
___ 02:05PM BLOOD Lactate-1.9

==================================
            Radiology            
==================================
LIVER OR GALLBLADDER US (SINGLE ORGAN)Study Date of ___ 
1:39 ___
Final Report
HISTORY:  Cholangiocarcinoma and fever.  Evaluate for 
cholecystitis.
 
TECHNIQUE:  Abdominal ultrasound.
 
COMPARISON:  CT abdomen and pelvis ___ and liver 
ultrasound ___.
 
FINDINGS:  The liver is normal and architecture.  There are no 
focal liver
lesions identified on ultrasound.
 
The gallbladder is not distended.  There is minimal gallbladder 
wall
thickening which is unchanged from prior.  A small amount of 
layering sludge
is unchanged.  Stents are seen within the common bile duct.  A 
small focus of
pneumobilia is present.  There is unchanged mild intrahepatic 
biliary ductal
dilation.  There was a negative sonographic ___ sign.
 
The spleen is enlarged, measuring 17.7 cm but unchanged.  There 
is no ascites.
Doppler examination the main portal vein shows normal 
hepatopetal flow.
 
IMPRESSION:
 
1.  Unchanged mild gallbladder wall thickening and gallbladder 
sludge.
 
2.  Common bile duct stent in position with expected 
pneumobilia.  
 
3.  Stable splenomegaly.

CHEST (PA & LAT)Study Date of ___ 2:14 ___
Final Report
INDICATION:  ___ with fever and history of cancer with 
chemo.  Evaluate
for pneumonia or any other acute process.
 
COMPARISON:  Multiple prior chest radiographs, most recent on 
___ and
___.
 
TECHNIQUE:  PA and lateral chest radiograph.
 
FINDINGS:  A 10 mm calcified granuloma is again noted in the 
right upper lobe.
Linear bilateral lower lobe opacities are re-identified and 
likely
representative of scarring.  Otherwise, the lungs are clear with 
no evidence
of consolidation.  Cardiomediastinal and hilar contours are 
unremarkable. 
There is no pleural effusion or pneumothorax.  No fractures are 
identified.
 
IMPRESSION:  No evidence of acute cardiopulmonary process.

==================================
            Procedures
==================================
Date: ___ Endoscopist(s): ___. 
___, MD
___, MD ___
Ref.Phys.: ___, MD; ___, MD; ___ 
___, MD
    Assisting Nurse(s)/
Other Personnel: ___, RN
Birth Date: ___ ___ years) Instrument: ___ 
___ Indications: A level 4 consult was done
: ___ man with unresectable cholangiocarcinoma s/p ERCP w/ RC 
___ with bilateral metal stents, right stent malfunction and 
cholangitis s/p ERCP w/ MS ___ for stent cleaning, 
re-hospitalization x2 in ___ for GNR bacteremia, C.diff 
colitis, and delerium. Has completed CyberKnife and is C5D4 of 
gemcitabine/cisplatin. 2 epsidoes cholangitis in ___ and Apr 
treated conservatively. Last chemo few wks ago. P/w RUQ pain, 
fever 101.8, HD stable. LFT's - TB 1.8 (up to 2.5 today), ALP 
605, AST/ALT 200. on zosyn. U/S - biliary stents in position w/ 
pneumobilia. Plan for ERCP.
Medications: Monitored care anesthesia
FT9.9mins, 605.96mGy, 140.783Gycm2
Procedure: The procedure, indications, preparation and 
potential complications were explained to the ___, who 
indicated his understanding and signed the corresponding consent 
forms. A physical exam was performed. The ___ was 
administered MAC anesthesia. The ___ was placed in the prone 
position and an endoscope was introduced through the mouth and 
advanced under direct visualization until the third part of the 
duodenum was reached. Careful visualization was performed. The 
procedure was not difficult. The quality of the preparation was 
good. The ___ tolerated the procedure well. There were no 
complications.
Findings:
Esophagus: Limited exam of the esophagus was normal
Stomach: Limited exam of the stomach was normal
Duodenum: Limited exam of the duodenum was normal
Major Papilla: 2 metal stents previously placed in the biliary 
duct were found in the major papilla. The stents were in place 
without any migration.  
Cannulation:  Selective cannulation of both biliary stents was 
successful and deep with a balloon using a free-hand technique. 
Contrast medium was injected resulting in complete 
opacification. 
Fluoroscopic Interpretation of the Biliary Tree: Scout film 
revealed bilateral metal stents. The left sided metal stent was 
cannulated with the balloon. Multiple balloon sweeps were 
performed resulting in extraction of copious amounts of sludge, 
stone material and tumour tissue. Passage of the wire proximal 
to the stent was difficult and there was a possible narrowing 
seen on cholangiogram and thus the decision was made to insert a 
stent. The right sided metal stent was then cannulated with the 
balloon. Multiple balloon sweeps were performed resulting in 
extraction of copious amounts of pus, sludge, stone material and 
tumour tissue. The occlusion cholangiogram revealed no proximal 
filling defects/stricturing. Excellent bile and contrast 
drainage was seen endoscopically and fluoroscopically. 
Procedures: A double pigtail plastic biliary stent was placed 
successfully in the main duct and left main hepatic duct. 
Radiologic interpretation:  I supervised the acquisition and 
interpretation of the fluoroscopic images. The quality of the 
fluoroscopic images was good. The total fluoroscopy time was 
9.9mins.
Impression: 

    Scout film revealed bilateral metal stents
    2 metal stents previously placed in the biliary duct were 
found in the major papilla. The stents were in place without any 
migration
    The left sided metal stent was cannulated with the balloon.
    Multiple balloon sweeps were performed resulting in 
extraction of copious amounts of sludge, stone material and 
tumour tissue.
    Passage of the wire proximal to the stent was difficult and 
there was a possible narrowing seen on cholangiogram and thus 
the decision was made to insert a stent.
    A double pigtail plastic biliary stent was placed 
successfully in the main duct and left main hepatic duct. 
    The right sided metal stent was then cannulated with the 
balloon.
    Multiple balloon sweeps were performed resulting in 
extraction of copious amounts of pus, sludge, stone material and 
tumour tissue.
    The occlusion cholangiogram revealed no proximal filling 
defects/stricturing.
    Excellent bile and contrast drainage was seen endoscopically 
and fluoroscopically. 

Recommendations: Return to ward under ongoing care.
Clear fluids when awake then advance diet as tolerated.
Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call ERCP 
fellow on call ___
Continue with antibiotics - Ciprofloxacin 500mg BID x 5 days.
Repeat ERCP in 6 weeks for stent pull and re-evaluation.
Additional notes: The procedure was performed by Dr. ___ 
___ the GI fellow. The attending was present for the entire 
procedure. FINAL DIAGNOSES are listed in the impression section 
above. Estimated blood loss = zero. No specimens were taken for 
pathology.
 
Brief Hospital Course:
___ yo M with hx of metastatic cholangiocarcinoma, admitted with 
fever and elevated LFTs/T. Bili.  ERCP done ___ showed 
obstruction of both biliary stents.  He had stents ballooned and 
opened. His LFTs improved subsequently.  Changed abx from 
cefepime/flagyl to Cipro 500 mg PO BID after the procedure.  
Diet advanced to regular. Was having fevers up until ___, 
afebrile since then. The rest of his course was uncomplicated. 
He was due for gemcitabine/cisplatin which was held due to 
infection and will be rescheduled for next week. He will need 
stents pulled with ERCP in 6 weeks.

# Dispo: 
[x] Discharge documentation reviewed, pt is stable for 
discharge.
[x] Time spent on discharge activity was greater than 30min.
[ ] Time spent on discharge activity was less than 30min. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU BID 
3. Loratadine 10 mg PO DAILY 
4. MetronidAZOLE Topical 1 % Gel 1 Appl TP DAILY 
5. OLANZapine 5 mg PO HS 
6. Pantoprazole 40 mg PO Q24H 
7. Terazosin 10 mg PO HS 
8. Multivitamins 1 TAB PO DAILY 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1. Atenolol 50 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU BID 
3. Loratadine 10 mg PO DAILY 
4. MetronidAZOLE Topical 1 % Gel 1 Appl TP DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. OLANZapine 5 mg PO HS 
7. Pantoprazole 40 mg PO Q24H 
8. Terazosin 10 mg PO HS 
9. Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days 
RX *ciprofloxacin 500 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*6 Tablet Refills:*0
10. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cholangiocarcinoma
cholangitis/biliary obstruction
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for fevers and an 
obstruction and infection of your bile ducts and bile duct 
stents. You had an endoscopy which replaced those stents and 
they are functioning better now. Your fevers have resolved. You 
missed your chemotherapy while here, so this has been 
rescheduled for next week. Take care!
 
Followup Instructions:
___